US05233035
5.00 g (10.1 mmol) of Diphenylmethyl 7-tert-butoxycarbonylamino-3-hydroxymethyl-3-cephem-4-carboxylate, 7.93 g (30.2 mmol) of triphenylphosphine, and 7.28 g (60.2 mmol) of p-methoxyphenol were dissolved in 25 ml of tetrahydrofuran under argon atmosphere, and the reaction solution was cooled to -40°-35° C., and 4.76 ml (30.2 mmol) of diethyl azodicarboxylate were added dropwise, and then the stirring was effected for 6 hrs. at the same temperature. This solution was added to a suspension of 300 ml of ice cold 1N hydrochloric acid and 300 ml of ethyl acetate, and stirred, and then separated, and the layer of ethyl acetate was washed with water and saturated saline solution, and dried over anhydrous magnesium sulfate. Benzene was added to a caramel obtained by evaporating off the solvent so that the insoluble material was removed by filtering off, and the residue obtained by evaporating off the benzene filtrate was dissolved in diethyl ether. This ether solution was washed with 20% potassium carbonate aqueous solution until unreacted p-methoxyphenol was removed, and further washed with saturated potassium dihydrogen phosphate aqueous solution, water, and saturated saline solution. The layer of ether was dried over anhydrous magnesium sulfate, and then, ether was evaporated off to give 2.80 g of a caramel. The caramel was column chromatographed on silica gel by eluting with benzene-acetone (V:V;100:1), and then, powdered with ether-hexane to give 1.29 g of diphenylmethyl 7-tert-butoxycarbonylamino-3-(4-methoxyphenoxymethyl)-3cephem-4-carboxylate.

reactant | Diphenylmethyl 7-tert-butoxycarbonylamino-3-hydroxymethyl-3-cephem-4-carboxylate | 10.1 mmol, 5.00 g | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H28N2O6S
reactant | triphenylphosphine | 30.2 mmol, 7.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-methoxyphenol | 60.2 mmol, 7.28 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | diethyl azodicarboxylate | 30.2 mmol, 4.76 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | diphenylmethyl 7-tert-butoxycarbonylamino-3-(4-methoxyphenoxymethyl)-3cephem-4-carboxylate | 1.29 g | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)COC2=CC=C(C=C2)OC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C33H34N2O7S
